US04999381
4-Amino-2-chlorobenzoic acid was stirred in water (60 ml) and 1,2-dimethoxyethane (25 ml) with sodium bicarbonate (5.04 g) and the brown suspension cooled to 0°-5° C. 2-Methylpropionyl chloride (4.26 g) was added dropwise over 10 minutes with vigorous stirring, and the mixture was then stirred at 0°-10° C. for 2 hours. The mixture was poured into 2 M hydrochloric acid and the pale brown precipitate washed with water and filtered and dried to give 2-chloro-4-(2'-methylpropionamido)benzoic acid as a pale brown crystalline solid (6.30 g), m.p. 206°-209° C.

reactant | 4-Amino-2-chlorobenzoic acid | NC1=CC(=C(C(=O)O)C=C1)Cl | C7H6ClNO2
reactant | sodium bicarbonate | 5.04 g | C([O-])(O)=O.[Na+]
reactant | 2-Methylpropionyl chloride | 4.26 g | CC(C(=O)Cl)C | C4H7ClO
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | water | 60 ml | O | H2O
solvent | 1,2-dimethoxyethane | 25 ml | COCCOC | C4H10O2
product | 2-chloro-4-(2'-methylpropionamido)benzoic acid | 6.30 g | ClC1=C(C(=O)O)C=CC(=C1)NC(C(C)C)=O | C11H12ClNO3
